US08003677B2
N-(3-methylbutyl)-2-(5-quinazolin-4-yl-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)-thiazole-5-carboxamide
N-(3-Methylbutyl)-2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxamide, trifluoroacetate (220 mg, 0.52 mmol) and triethylamine (0.22 ml, 1.57 mmol) were dissolved in 10 ml of DMF and admixed in an ice bath with 4-chloroquinazoline (172 mg, 1 mmol). The mixture was stirred further for 1 h and allowed to warm to room temperature, and concentrated, water and ethyl acetate were added and the organic phase was removed, concentrated by evaporation and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). M+H+: 435.05.

reactant | N-(3-Methylbutyl)-2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxamide | CC(CCNC(=O)C1=CN=C(S1)N1CC=2CNCC2C1)C | C15H22N4OS
reactant | trifluoroacetate | 0.52 mmol, 220 mg | FC(C(=O)[O-])(F)F
reactant | triethylamine | 1.57 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloroquinazoline | 1 mmol, 172 mg | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(3-methylbutyl)-2-(5-quinazolin-4-yl-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)-thiazole-5-carboxamide | CC(CCNC(=O)C1=CN=C(S1)N1CC=2CN(CC2C1)C1=NC=NC2=CC=CC=C12)C | C23H26N6OS
